US06552188B2
Synthesis of ethyl 2-(4-chlorophenyl)isonicotinate
4-Chlorophenylboronic acid (185 mg) and ethyl 2-chloroisonicotinate (200 mg) were reacted in the same manner as in Preparation Example 1 to obtain the title compound.

reactant | 4-Chlorophenylboronic acid | 185 mg | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | ethyl 2-chloroisonicotinate | 200 mg | ClC=1C=C(C(=O)OCC)C=CN1 | C8H8ClNO2
product | ethyl 2-(4-chlorophenyl)isonicotinate | ClC1=CC=C(C=C1)C=1C=C(C(=O)OCC)C=CN1 | C14H12ClNO2
